*SRC=DMMT3906;DI_DMMT3906;BJTs PNP; Si;  40.0V  0.200A  257MHz
*Inc. Matched Transistor
.subckt DMMT3906W b2 b1 c1 e1 e2 c2
*                                  1  2   3   4   5   6
Q1 c1 b1 e1 DI_DMMT3906W
Q2 c2 b2 e2 DI_DMMT3906W
.MODEL DI_DMMT3906W  PNP (IS=20.3f NF=1.00 BF=274 VAF=114 
+ IKF=36.4m ISE=6.99p NE=2.00 BR=4.00 NR=1.00 
+ VAR=20.0 IKR=90.0m RE=1.01 RB=4.03 RC=0.403 
+ XTB=1.5 CJE=12.1p VJE=1.10 MJE=0.500 CJC=10.7p VJC=0.300 
+ MJC=0.300 TF=531p TR=85.6n EG=1.12 )
.ends DMMT3906W