*
* Generic diode model: 217C
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 217C A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00018412289
.ENDS
*
* Generic diode model: 2B7
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 2B7 A K
BIA A K I=URAMP(V(A,K))**1.5 * 6.8041382e-05
.ENDS
*
* Generic diode model: 2X2
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 2X2 A K
BIA A K I=URAMP(V(A,K))**1.5 * 1.7074694e-05
.ENDS
*
* Generic diode model: 5AR4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5AR4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0032100303
.ENDS
*
* Generic diode model: 5R4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5R4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00045585614
.ENDS
*
* Generic diode model: 5T4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5T4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00083852549
.ENDS
*
* Generic diode model: 5U4G
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5U4G A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00077090969
.ENDS
*
* Generic diode model: 5U4GB
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5U4GB A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00077781746
.ENDS
*
* Generic diode model: 5V4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5V4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0016198477
.ENDS
*
* Generic diode model: 5W4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5W4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00031112698
.ENDS
*
* Generic diode model: 5Y3
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Y3 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00035355339
.ENDS
*
* Generic diode model: 5Z3
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Z3 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0005093784
.ENDS
*
* Generic diode model: 5Z4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Z4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0012909944
.ENDS
*
* Generic diode model: 6AL5
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6AL5 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0018973666
.ENDS
*
* Generic diode model: 6AX4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6AX4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0013810679
.ENDS
*
* Generic diode model: 6CA4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6CA4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.001677051
.ENDS
*
* Generic diode model: 6H6
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6H6 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0003786917
.ENDS
*
* Generic diode model: 6SQ7D
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6SQ7D A K
BIA A K I=URAMP(V(A,K))**1.5 * 6.3245553e-05
.ENDS
*
* Generic diode model: 6X4
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6X4 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00067836592
.ENDS
*
* Generic diode model: 6X5
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6X5 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00067082039
.ENDS
*
* Generic diode model: 80
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 80 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00026895718
.ENDS
*
* Generic diode model: 81
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 81 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00019583343
.ENDS
*
* Generic diode model: 82
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 82 A K
BIA A K I=URAMP(V(A,K)-15)/4
.ENDS
*
* Generic diode model: 83
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 83 A K
BIA A K I=URAMP(V(A,K)-15)/4
.ENDS
*
* Generic diode model: 836
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 836 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00055901699
.ENDS
*
* Generic diode model: 83V
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 83V A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.0014
.ENDS
*
* Generic diode model: 84
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 84 A K
BIA A K I=URAMP(V(A,K))**1.5 * 0.00067082039
.ENDS
*
* Generic diode model: 878
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 878 A K
BIA A K I=URAMP(V(A,K))**1.5 * 7.8e-06
.ENDS
*
* Generic diode model: 879
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 879 A K
BIA A K I=URAMP(V(A,K))**1.5 * 1.0606602e-05
.ENDS
