* Model using LTspice Version 4 or later
* GaNPower Int'l Inc. EHEMT
* Level 10  Version 1.0                                          *
*                                                               *
* Model constructed based on published sesearch papers. 
* GaNPower Int'l does not assume liability for its use.
* For tech questions, please contact www.iganpower.com
*                                                               *
* Key reference:
* H. Li, X. Zhao, W. Su, K. Sun, X. You and T. Q. Zheng, 
* "Nonsegmented PSpice Circuit Model of GaN HEMT With Simulation 
* Convergence Consideration," in IEEE Transactions on Industrial 
* Electronics," vol. 64, no. 11, pp. 8992-9000, Nov. 2017.
* 
*  Model name GPIHV30DFN
*****************************************************************
*
.subckt GPIHV30DFN gatein drainin sourcein

.param r_fac=0.59
.param c_fac=1.0
.param k_fac=1.7
*
rd drainin drain {0.059901*r_fac} tc=0.0135
rs sourcein source {0.023960*r_fac} tc=0.0135
rg gatein gate {0.455248*r_fac}
*
*
bswitch drain source I = (if (v(drain,source)>0,
+	(k_fac*1.651194*log(1.0+exp(26*(v(gate,source)-1.7)/2.0))*
+	0.834711*v(drain,source)/(1 + max(0.5+0.2*(v(gate,source)+4.1),0.2)*0.834711*v(drain,source))),
+	(k_fac*(-1.651194)*log(1.0+exp(21*(v(gate,drain)-1.7)/2.0))*
+	0.834711*v(source,drain)/(1 + max(0.5+0.2*(v(gate,drain)+6.1),0.2)*0.834711*v(source,drain)))) )
*
*
* at Vds=500V
C_GS	 gate source  	{194.0e-12*c_fac}
C_GD    gate drain    	{6.3e-12*c_fac}
C_SD	 source drain  	{47.0e-12*c_fac}
*C_SG   source  gate  Q=1e-12*x*135.720721*c_fac
*C_GD   gate drain    Q=1e-12*x*(4.720721+41.0/(1+x*x/1600.))*c_fac
*C_SD   source drain  Q=1e-12*x*(23.603604+190.0/(1+x*x/4900.))*c_fac


.ends
*$
